US08614215B2
Intermediate 93: Methyl[4-(aminosulfonyl)phenoxy]acetate
To a stirred suspension of NaH (2.8 g, 0.07 mol, 50% in mineral oil) in DMF (50 mL) is added dropwise methyl glycolate (5.5 g, 0.06 mol) over a period of 10 min. The mixture is heated up to 50° C. for 3 h and cooled down to room temperature. 4-Fluorobenzenesulfonamide g, 0.0114 mol) is added portionwise. After stirring at 50° C. for 10 h, the reaction mixture is cooled down and poured into ice-water containing HCl. The product is extracted with DCM (2×100 mL). The combined organic phase is washed with water and dried over Na2SO4. The solvent is evaporated under reduced pressure and the residue is purified by chromatography (silica gel, 60-120 mesh) with chloroform/methanol (9/1) as eluent to afford 900 mg (32%) of the title compound as a solid. 1H NMR (CDCl3, 400 MHz) δ 7.68-721 (m, 2H), 7.10-7.12 (m, 2H), 6.45 (br s, 2H), 4.51 (s, 2H), 3.86 (s, 3H).

reactant | NaH | 0.07 mol, 2.8 g | [H-].[Na+]
reactant | methyl glycolate | 0.06 mol, 5.5 g | C(CO)(=O)OC | C3H6O3
reactant | 4-Fluorobenzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)N | C6H6FNO2S
reactant | HCl | Cl | ClH
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | Methyl[4-(aminosulfonyl)phenoxy]acetate | 900 mg, 32% | COC(COC1=CC=C(C=C1)S(=O)(=O)N)=O | C9H11NO5S
